Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Insulin,Pork / Bactrim DS / Percocet / Simvastatin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of 
celiac disease, ___ hammer esophagus, hypothyroidism, ADD who 
presents with bright red blood per rectum.

The patient states that she was in her usual state of health 
when she started having abdominal pain, increased gas, and 
nausea in the early morning on ___. She had four episodes of 
vomiting with small amounts of blood but she does not completely 
remember. Denies the vomiting to be bilious. She had 3 loose BMs 
that was all fresh blood with blood mixed in the stools and 
blood on the toilet paper. Denies melena. Denies fevers, chills, 
trying new diet, eating gluten. 

Of note patient follows with Dr. ___ in GI for management of 
her celiac disease. Last colonoscopy ___ which found 1 
polyp in the rectum and grade 1 internal hemorrhoids. Biopsies 
of the terminal ileum and random colon biopsies were negative 
for microscopic colitis.

In the ED, initial vitals:  T97.6 HR 129 BP 140/92 RR16 100% RA
- Exam notable for:  hyperactive bowel sounds, non tender to 
superficial or deep palpation in all four quadrants.
- Labs notable for:  
Chemistry: Na 136, K 4.4 Chloride 94, HCO3 26 BUN 19 Sr Cr 0.9
LFTs: ALT 34, AST 23 AP 95
CBC: WBC 15.3 Hgb 16.1 Plt 252
- Imaging notable for:  
CT AP ___:
1. No evidence of acute abdominopelvic process which would 
correlate with patient's reported symptoms.
2. Enlarged, heterogeneous fibroid uterus.
3. Tiny 4 mm hypodensity within the mid body of the pancreas, 
likely
compatible with small side-branch IPMN.
- Pt given: 
1L NS
20mg Lisinopril 
Metoprolol Succinate XL 50mg
Donnatal 10mL
- Vitals prior to transfer:  

Upon arrival to the floor, the patient reports that she has had 
at least ___ bowel movements that are largely bloody. She 
reports nausea, but no vomiting. Also notes some abdominal 
discomfort. Does not report fevers, chills, chest pain, and 
shortness of breath. 
 
Past Medical History:
ADD                                                             
ANXIETY                                                         
BLDG                                                            
DIABETES MELLITUS                                               
ECZEMA                                                          
HEALTH MAINTENANCE                                              
ORTHOSTATIC HYPOTENSION                                         
SINUSITIS                                                       
TACHYCARDIA                                                     
TOBACCO ABUSE                                                   
HYPOTHYROIDISM                                                  
CARPAL TUNNEL SYNDROME                                          
FATIGUE                                                         
MYALGIA                                                         
BACK PAIN                                                       
MYALGIAS                                                        
CELIAC DISEASE                                                  
BILIARY TRACT DISEASE                                           
DISABILITY                                            
VITAMIN D DEFICIENCY
 
Social History:
___
Family History:
Mother: ___ Disease, Skin lesions, Lung cancer
Father: MI
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VS: T 98.8 PO, BP 164 / 72, HR 126, RR 18, O2 sat 98% on RA 
General: Alert, oriented, no acute distress, mildly 
uncomfortable 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, neck 
supple, JVP not elevated, no LAD  
CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, diffuse mild tenderness to palpation, 
non-distended, bowel sounds present, no organomegaly, no rebound 
or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: A&Ox3, moving all 4 extremities with purpose 

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 753)
Temp: 97.8 (Tm 98.1), BP: 135/85 (110-147/71-86), HR: 91 
(91-105),
RR: 18 (___), O2 sat: 97% (96-100), O2 delivery: Ra  

GEN:    lying in bed in NAD, more alert today
CV:     tachycardic, regular, nl s1/s2, no murmurs
PULM:   CTABL no increased WOB
ABD:    soft, non-distended, mild tenderness to deep palpation
        in epigastrium, no rebound or guarding, +BS
EXTR:   WWP. no edema over BLE
SKIN:   no rashes noted
NEUR:   A&Ox3
 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:00AM BLOOD WBC-15.3* RBC-5.10 Hgb-16.1* Hct-46.2* 
MCV-91 MCH-31.6 MCHC-34.8 RDW-11.9 RDWSD-39.0 Plt ___
___ 01:00AM BLOOD Neuts-93.1* Lymphs-4.0* Monos-2.2* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-14.25* AbsLymp-0.61* 
AbsMono-0.34 AbsEos-0.00* AbsBaso-0.04
___ 01:00AM BLOOD ___ PTT-29.5 ___
___ 01:00AM BLOOD Glucose-323* UreaN-19 Creat-0.9 Na-136 
K-4.4 Cl-94* HCO3-26 AnGap-16
___ 01:00AM BLOOD ALT-34 AST-23 AlkPhos-95 TotBili-0.9
___ 01:00AM BLOOD cTropnT-<0.01
___ 01:00AM BLOOD Lipase-8
___ 01:00AM BLOOD Albumin-4.9 Calcium-9.9 Phos-3.5 Mg-1.7
___ 01:17AM BLOOD ___ pO2-31* pCO2-46* pH-7.38 calTCO2-28 
Base XS-0
___ 01:17AM BLOOD Lactate-1.9

PERTINENT LABS:
===============
___ 08:50AM BLOOD TSH-1.2
___ 07:55AM BLOOD CRP-3.4
___ 01:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:53PM BLOOD ART pO2-104 pCO2-33* pH-7.38 calTCO2-20* 
Base XS--4
___ 01:21PM BLOOD Lactate-1.6
___ 01:07AM BLOOD ___ pO2-184* pCO2-41 pH-7.42 calTCO2-28 
Base XS-2

___ 04:43PM URINE bnzodzp-NEG barbitr-POS* opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG
___ 01:29AM URINE Osmolal-602

___ 04:43PM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-1000* Ketone-150* Bilirub-NEG Urobiln-NEG pH-5.5 
Leuks-NEG
___ 04:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-300* Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:38AM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

IMAGING:
===============
___ CT A/P with IV Contrast
FINDINGS:
- LOWER CHEST: Visualized lung fields are within normal limits.  
There is no evidence of pleural or pericardial effusion. 
- ABDOMEN: 
-- HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  There is no evidence of focal lesions. There is no 
evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits. 
-- PANCREAS: The pancreas has normal attenuation throughout, 
without evidence pancreatic ductal dilatation.  There is a 4 mm 
hypodensity within the mid body of the pancreas (02:18), likely 
compatible with small side-branch IPMN.  There is no 
peripancreatic stranding. 
-- SPLEEN: The spleen shows normal size and attenuation 
throughout, without evidence of focal lesions. 
-- ADRENALS: The right and left adrenal glands are normal in 
size and shape. 
-- URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is a 1.1 cm hypodensity within the 
left upper renal pole (02:18), compatible with simple renal 
cyst.  Additional subcentimeter hypodensities in the bilateral 
kidneys are too small to characterize, though likely compatible 
with simple renal cysts.  There is no evidence of 
hydronephrosis.  There is no perinephric abnormality. 
-- GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout. Distal transverse colon, splenic 
flexure, and descending colon are decompressed.  Mild concentric 
wall thickening involving these segments could represent mild 
colitis, or possibly secondary to bowel decompression.  The 
appendix is not visualized, however no secondary signs of 
inflammation in the right lower quadrant. 
- PELVIS: The urinary bladder and distal ureters are 
unremarkable.  There is no free fluid in the pelvis. 
- REPRODUCTIVE ORGANS: There is an enlarged, fibroid uterus. No 
adnexal 
abnormality is seen.  There is an intrauterine device in place, 
low lying in position likely secondary to fibroids. 
- LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
- VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. 
- BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
- SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
IMPRESSION: 
1. Distal transverse colon, splenic flexure, and descending 
colon are decompressed.  Mild concentric wall thickening 
involving these segments associated with surrounding soft tissue 
stranding and prominent pericolonic vessels could represent mild 
colitis. 
2. Enlarged, heterogeneous fibroid uterus.  Low-lying position 
of IUD in the lower uterine segment and endocervical canal. 
3. Tiny 4 mm hypodensity within the mid body of the pancreas, 
likely compatible with small side-branch IPMN-MRCP may be 
performed for better evaluation. 

MICROBIOLOGY:
===============
___ 3:35 pm BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 

___ 1:02 pm BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 6:04 pm STOOL     
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 
   C. DIFFICILE PCR (Final ___: NEGATIVE. 

DISCHARGE LABS:
===============
___ 06:04PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE
___ 07:20AM BLOOD WBC-7.7 RBC-4.26 Hgb-13.5 Hct-38.1 MCV-89 
MCH-31.7 MCHC-35.4 RDW-11.8 RDWSD-38.0 Plt ___
___ 07:20AM BLOOD Glucose-122* UreaN-8 Creat-0.7 Na-138 
K-3.4* Cl-97 HCO___ AnGap-10
___ 07:20AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.8

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with T1DM on insulin pump, 
celiac disease, jackhammer esophagus, hypothyroidism, ADD who 
presented with BRBPR iso abd pain, nausea, vomiting, diarrhea x 
days.

ACUTE/ACTIVE PROBLEMS: 
=======================
#?INFECTIOUS GASTROENTERITIS vs COLITIS
#SEPSIS
#HEMATOCHEZIA
Ms. ___ presented with fevers, leukocytosis, worsened 
tachycardia in the setting of abd pain, nausea/vomiting, 
diarrhea, BRBPR, which together met sepsis criteria. CT imaging 
was re-read as possible colitis of descending/distal transverse 
colon. Most likely infectious colitis or gastroenteritis. BRBPR 
could also be infectious process worsening known internal 
hemorrhoids. Upper GI sx could also be related to underlying 
celiac disease, uncontrolled T1DM. Ddx included inflammatory 
colitis given pt report of similar episode in past, but last 
colonoscopy/bx in ___ without evidence of this. She was started 
on ciprofloxacin/flagyl with improvement in her symptoms (last 
dose ___. Infectious workup was ultimately negative for noro, 
Cdiff, salmonella, shigella, campylobacter, and E.coli O157:H7. 
Blood cultures were no growth to date. She was hemodynamically 
stable throughout, with Hb also stable. GI felt that there was 
no role for inpatient colonoscopy. On discharge, pt was 
clinically feeling at her baseline. She was managed 
symptomatically with reglan iso possible gastroparesis. As an 
outpatient, can consider gastric emptying study if symptoms 
persist.

#TOXIC-METABOLIC ENCEPHALOPATHY, resolved
#METABOLIC ACIDOSIS
#CONCERN FOR DIABETIC KETOACIDOSIS
#TYPE 1 DIABETES MELLITUS, UNCONTROLLED
The patient was noted to have continued somnolence and new noted 
anion-gap metabolic acidosis on ___ labs. A broad workup was 
sent. Despite sugars only in 200-300s, UA showed new ketonuria, 
ABG showing normal pH likely ___ metabolic acidosis with 
appropriate respiratory compensation. With fluid administration 
and uptitrated basal insulin rate via pump, gap closed. Serum 
tox did not show ASA, ethanol, appreciable tylenol to explain 
other causes of AGMA. Urine tox results as below. Lactate wnl, 
so was less concerned for worsening of sepsis as above. Blood 
cultures remained no growth to date. ___ continued to follow 
and advise through hospitalization. BS improved to 100's at time 
of discharge.

#HYPONATREMIA, resolving
#APPROPRIATE ADH RESPONSE iso VOMITING
Ms. ___ was noted to have hyponatremia. It was felt that iso 
vomiting, this was appropriate response in ADH. Roughly 
normalized with increased PO intake.

#URINE TOXICOLOGY (+)BARBITURATES
During workup for potential altered mental status, found to have 
barbiturates in utox. Unclear where barbiturates would be coming 
from, as review of medications being given in hospital would not 
produce either true or false positive. Pt does not recall any 
medications she took that could produce this. Rare case reports 
of barbiturate(+) with NSAID administration in literature, which 
pt is not getting here. Discussed with pt that if pt was taking 
barbiturates as outpt, would be concerned given other sedating 
medications on PAML (eg. methocarbamol). Discussed concern that 
pt has been somnolent while in hospital, though this likely is 
multifactorial in etiology.

CHRONIC/STABLE PROBLEMS: 
=========================
#TACHYCARDIA
#AUTONOMIC NEUROPATHY
Has documented tachycardia as outpatient, for which she follows 
with Dr. ___. ECG here showing sinus tachycardia. TSH during 
admission was 1.2. Continued home metoprolol given stability.

#CELIAC DISEASE
Well documented history of abdominal pain and distension in the 
setting of her underlying celiac disease, though worsened as 
above. Continued home regimen.

#ADD
Per conversation with outpatient providers, ___ 
reflects both Adderall and Vyvanse due to insurance issues and 
patient should only be receiving one or the other. However, per 
patient report, she is taking both together. Adderall was 
continued while inpatient. As transitional issue, should clarify 
dosing.

#HTN
Continued Lisinopril 20mg daily given clinical stability.

#HYPOTHYROIDISM
Continued home levothyroxine 125mcg daily. TSH 1.2 as above, 
though would be hesitant to interpret in setting of acute 
illness.

TRANSITIONAL ISSUES
===================
MEDICATIONS
*NEW*
- ciprofloxacin 500mg q12h until ___ ___
- metronidazole 500mg q8h until ___ ___
- reglan 10mg with meals, short course
*CHANGED*
- insulin pump
*STOPPED*
- none

[ ] Consider outpatient gastric emptying study for possible 
gastroparesis if nausea/vomiting do not resolve
[ ] Defer to GI Dr. ___ timing of outpatient colonoscopy, 
if needed
[ ] Recheck chem-10 as Ca, Phos was noted to be low (repleted 
before discharge)
[ ] Re-emphasize not mixing sedating medications.

#CODE: FULL CODE (presumed)
#CONTACT: Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 

>30 min spent on discharge planning including face to face time
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4-6H wheezing 
2. Amphetamine-Dextroamphetamine 20 mg PO TID 
3. ValACYclovir 1000 mg PO Q24H 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Methocarbamol ___ mg PO QHS:PRN neck pain 
6. Lisinopril 20 mg PO DAILY 
7. Vyvanse (lisdexamfetamine) 70 mg oral DAILY 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. Zenpep (lipase-protease-amylase) 10,000-32,000 -42,000 unit 
oral TID W/MEALS 
10. HydrOXYzine 10 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Doses 
last dose ___ ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*4 Tablet Refills:*0 
2.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - 5a:  .65 Units/Hr
  5a - 7a:  1 Units/Hr
  7a - 11a:  .83 Units/Hr
  11a - 5p:  .68 Units/Hr
  5p - 8p:  .73 Units/Hr
  8 - 12a:  .5 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:10
  Lunch = 1:10
  Dinner = 1:10
High Bolus:
  Correction Factor = 1:80
  Correct To ___ mg/dL

Use of ___ medical equipment: Insulin pump
Reason for use: medically necessary and justified as ___ 
cannot provide this type of equipment or suitable alternative 
not appropriate.
Provider acknowledges patient competent
 
3.  Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tablet by mouth With Meals Disp 
#*21 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H Duration: 8 Doses 
last dose ___ ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*6 Tablet Refills:*0 
5.  Albuterol Inhaler 2 PUFF IH Q4-6H wheezing  
6.  Amphetamine-Dextroamphetamine 20 mg PO TID  
7.  HydrOXYzine 10 mg PO QHS:PRN insomnia  
8.  Levothyroxine Sodium 125 mcg PO DAILY  
9.  Lisinopril 20 mg PO DAILY  
10.  Methocarbamol ___ mg PO QHS:PRN neck pain  
11.  Metoprolol Succinate XL 50 mg PO DAILY  
12.  ValACYclovir 1000 mg PO Q24H  
13.  Vyvanse (lisdexamfetamine) 70 mg oral DAILY  
14.  Zenpep (lipase-protease-amylase) 10,000-32,000 -42,000 unit 
oral TID W/MEALS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#Infectious Colitis
#Gastroenteritis

SECONDARY DIAGNOSIS
#Type 1 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___!

WHY WAS I IN THE HOSPITAL?
- You were having blood with bowel movements

WHAT HAPPENED IN THE HOSPITAL?
- Imaging showed you had inflammation of your large intestine
- You developed nausea and vomiting as well
- Our Gastroenterology team evaluated you
- It was felt you might have a gastroenteritis ("stomach bug")
- You were started on antibiotics and given IV fluids
- ___ Diabetes service also followed you during 
hospitalization
- You nearly went into diabetic ketoacidosis ("DKA") but 
reassuringly this did not happen

WHAT SHOULD I DO AFTER THE HOSPITAL?
- Please take your medications as directed
- Please follow up at your appointments as below

WE WISH YOU THE BEST!
Your ___ Care Team
 
Followup Instructions:
___